US08871753B2
Step D: 2-(3-Aminophenyl)-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}acetamide
To a solution N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-2-(3-nitrophenyl)acetamide (0.055 g, 0.13 mmol) in water (0.1 mL), methanol (0.5 mL) and acetic acid (0.20 mL) was added iron (0.030 g, 0.53 mmol) powder in one batch. The mixture was stirred at 0° C. for 0.5 h. The reaction was mixed with celite, filtered, and the cake was washed with EtOAc. The brown filtrate was concentrated and EtOAc and NaHCO3/water added. The aqueous phase was extracted with EtOAc. The organics were combined, died over Na2SO4 and concentrated to give the desired product as a yellow powder (30 mg, 58%). LCMS for C18H15Cl2N5O (M+H)+: m/z=388.0, 390.0.

reactant | N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-2-(3-nitrophenyl)acetamide | 0.13 mmol, 0.055 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)Cl | C18H13Cl2N5O3
solvent | water | 0.1 mL | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.53 mmol, 0.030 g | [Fe] | Fe
product | 2-(3-Aminophenyl)-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}acetamide | 30 mg, 58% | NC=1C=C(C=CC1)CC(=O)NC1=CC(=CC=C1)NC1=NC(=NC=C1Cl)Cl | C18H15Cl2N5O
